US06013658
N-((1R)-1-Benzyl-2-hydroxypent-4-enyl)-N-methylcarbamic acid tert-butylester (3.95 g, 11.60 mmol) was dissolvend in THF (90 mL) and added to a solution of 9-borabicyclo[3.3.1]nonane (46.64 mL of a 0.5M solution in THF, 23.32 mmol) in THF (90 mL). The solution was heated to reflux for 16 h. The mixture was cooled to room temp. Ethanol (22 mL) was added dropwise. 6N Sodium hydroxide solution in water (6.6 mL, 39,44 mmol) and subsequently hydrogen peroxide (35% solution in water) were added slowly. The reaction mixture was heated to reflux for 1 h and cooled to room temp. It was given onto 1N sodium hydroxide solution (200 mL). The phases were separated. The aqueous phase was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with a 37% solution of sodium hydrogensulfite (150 mL). The solution was dried over magnesium sulfate. It was washed with a 37% solution of sodium hydrogensulfite (200 mL) and dried over magnesium sulfate. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate (200 mL), washed with 37% solution of sodium hydrogensulfite (200 mL) and dried over magnesium sulfate. The crude product was chromatographed on silica (180 g) with ethyl acetate and subsequently on silica (100 g) with dichloromethane/methanol/25% aqueous ammonia 100:10:1 to give 586 mg of ((1R)-1-benzyl-2,5-dihydroxypentyl)methylcarbamic acid tert-butylester.

reactant | N-((1R)-1-Benzyl-2-hydroxypent-4-enyl)-N-methylcarbamic acid tert-butylester | 11.60 mmol, 3.95 g | C(C)(C)(C)OC(N(C)[C@@H](C(CC=C)O)CC1=CC=CC=C1)=O | C18H27NO3
reactant | 9-borabicyclo[3.3.1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | Sodium hydroxide | 6N | [OH-].[Na+]
reactant | water | 39,44 mmol, 6.6 mL | O | H2O
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydroxide | 1N, 200 mL | [OH-].[Na+]
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | Ethanol | 22 mL | C(C)O | C2H6O
product | ((1R)-1-benzyl-2,5-dihydroxypentyl)methylcarbamic acid tert-butylester | 586 mg | C(C)(C)(C)OC(N(C)[C@@H](C(CCCO)O)CC1=CC=CC=C1)=O | C18H29NO4
